US06013658
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.92 g, 4.82 mmol) and 1-hydroxybenzotriazole monohydrate (0.74 g, 4.83 mmol) were added to a solution of N-tertbutoxycarbonyl-4-piperidine carboxylic acid (1.10 g, 4.80 mmol) in N,N-dimethylformamide (15 ml). After 30 min at 20° C. a mixture of (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride (1.50 g, 3.43 mmol) and triethylamine (0.35 g, 3.46 mmol) in N,N-dimethylformamide (15 ml) were added. After 18 h at 20° C. the reaction mixture was poured on ice water (180 ml) and extracted several times with ethyl acetate (total 180 ml). The organic phases were collected and washed with aqueous citric acid (10%, 25 ml), a saturated solution of sodium hydrogencarbonate (3×25 ml) and water (3×25 ml). After drying (magnesium sulfate) the solution was concentrated in vacuo and crystallized from ethyl acetate to give 1.84 g of 4-{(1R)-1-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl]-2-(2-naphthyl)ethylcarbamoyl}piperidine-1-carboxylic acid tertbutyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 4.82 mmol, 0.92 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 4.83 mmol, 0.74 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-tertbutoxycarbonyl-4-piperidine carboxylic acid | 4.80 mmol, 1.10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride | 3.43 mmol, 1.50 g | Cl.N[C@@H](C(=O)N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)CC1=CC2=CC=CC=C2C=C1
reactant | triethylamine | 3.46 mmol, 0.35 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-{(1R)-1-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl]-2-(2-naphthyl)ethylcarbamoyl}piperidine-1-carboxylic acid tertbutyl ester | 1.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)=O)=O | C35H41N5O5
